US06645973B1
Step A: 7-Fluoro-N-methylspiro[2H-1-benzopyran-2,4′-piperidine]-4(3H)-one
A stirred solution of 4′-fluoro-2′-hydroxyacetophenone (15.97 g), 1-methyl-4-piperidone (12.74 cm3) and pyrrolidine (4.325 cm3) in methyl alcohol (250 cm3) was heated to reflux under nitrogen. After 0.5 h, further pyrrolidine (4.33 cm3) was added and, after another 0.5 h, the solution was allowed to cool. The reaction mixture was then evaporated under reduced pressure to give an oil, which was dissolved in dichloromethane (400 cm3). This solution was washed with water (3×400 cm3), dried (Na2SO4) and evaporated to give an oil (25.7 g). Flash chromatography on silica (eluting with dichloromethane-methyl alcohol-33% aqueous ammonia=380:20:1) gave the purified product as an oil (14.41 g).

reactant | 4′-fluoro-2′-hydroxyacetophenone | 15.97 g | FC1=CC(=C(C=C1)C(C)=O)O | C8H7FO2
reactant | 1-methyl-4-piperidone | 12.74 cm3 | CN1CCC(CC1)=O | C6H11NO
reactant | pyrrolidine | 4.325 cm3 | N1CCCC1 | C4H9N
reactant | pyrrolidine | 4.33 cm3 | N1CCCC1 | C4H9N
solvent | methyl alcohol | 250 cm3 | CO | CH4O
solvent | dichloromethane | 400 cm3 | ClCCl | CH2Cl2
product | 7-Fluoro-N-methylspiro[2H-1-benzopyran-2,4′-piperidine]-4(3H)-one | 25.7 g | FC1=CC2=C(C(CC3(CCN(CC3)C)O2)=O)C=C1 | C14H16FNO2
